US09340546B2
To a solution of 1-(3-cyclopropyl-5-nitro-4-pyridyl)-4-methyl-piperazine (220.4 mg, 0.8403 mmol) in methanol (25 mL) was added Pd on carbon (10%, Degussa, 6.387 mg, 0.006002 mmol). The reaction mixture was stirred at room temperature under a balloon of hydrogen, for 7 h. The reaction was filtered through a plug of Celite, washed with MeOH and the filtrate was concentrated in vacuo yielding 5-cyclopropyl-4-(4-methylpiperazin-1-yl)pyridin-3-amine as an orange residue. (194 mg, 99%).

reactant | 1-(3-cyclopropyl-5-nitro-4-pyridyl)-4-methyl-piperazine | 0.8403 mmol, 220.4 mg | C1(CC1)C=1C=NC=C(C1N1CCN(CC1)C)[N+](=O)[O-] | C13H18N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd on carbon | 0.006002 mmol, 6.387 mg | [Pd] | Pd
product | 5-cyclopropyl-4-(4-methylpiperazin-1-yl)pyridin-3-amine | C1(CC1)C=1C(=C(C=NC1)N)N1CCN(CC1)C | C13H20N4
